US07060827B2
In a manner analogous to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine (50 mg, 0.21 mmol) and (2,5-dimethyl-3-furyl)methylamine (80 mg, 0.63 mmol) gave N2-[(2,5-dimethyl-3-furyl)methyl]-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine (40 mg, 59%). 1H NMR (acetone-d6): δ 2.14 (s, 6H), 4.37 (d, J=4.2 Hz, 2H), 5.96 (s, 1H), 6.77 (d, J=6.6 Hz, 1H), 7.23–7.28 (m, 2H), 7.44 (s, 1H), 8.11 (d, J=4.8 Hz, 1H), 9.05 (br, 1H), 9.75 (br, 1H); 19F NMR (282 MHz, acetone-d6): δ −165.77; LCMS: ret. time: 19.23 min.; purity: 94.89%; MS (m/e): 329.08 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | 0.21 mmol, 50 mg | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | (2,5-dimethyl-3-furyl)methylamine | 0.63 mmol, 80 mg | CC=1OC(=CC1CN)C | C7H11NO
product | N2-[(2,5-dimethyl-3-furyl)methyl]-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | 40 mg, 59% | CC=1OC(=CC1CNC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F)C | C17H17FN4O2
